US05244863
A solution of N-(3-trifluoromethylphenyl)thiourea (6.1 g), dibromoethane (5.7 g) and anhydrous potassium carbonate (11.5 g) in acetone (60 ml) was refluxed for 1 day. The solvent was removed by distillation therefrom, and the residue was extracted with ethyl ether, washed with water, dried over anhydrous magnesium sulfate and subjected to column chromatography to give 7.5 g of 2-imino-3-(3-trifluoromethylphenyl)thiazolidine. The thus obtained 2-imino-3-(3-trifluoromethylphenyl)thiazolidine (1.0 g), n-butyl chlorocarbonate (0.61 g) and triethylamine (1.2 g) were dissolved in tetrahydrofuran, and the resultant solution was stirred at room temperature for 5 hours. The solvent was removed, and the residue was extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. After removal of the solvent, the residue was subjected to column chromatography to give 0.57 g of 2-butoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazolidine.

reactant | 2-imino-3-(3-trifluoromethylphenyl)thiazolidine | 1.0 g | N=C1SCCN1C1=CC(=CC=C1)C(F)(F)F | C10H9F3N2S
reactant | n-butyl chlorocarbonate | 0.61 g | C(OCCCC)(=O)Cl | C5H9ClO2
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-butoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazolidine | 0.57 g | C(CCC)OC(=O)N=C1SCCN1C1=CC(=CC=C1)C(F)(F)F | C15H17F3N2O2S
